US07592358B2
IP 8b. (S)-1-pyrrolidin-2-ylcyclopropanol
The product was obtained analogously to IP 5d starting from 745 mg (3.43 mmol) 1-((S)-1-benzylpyrrolidin-2-yl)cyclopropanol. Yield: 350 mg (80% of theoretical); C7H13NO (M=127.184); calc.: molpeak (M+H)+: 128; found: molpeak (M+H)+: 128; Rf value: 0.10 (silica gel, EtOAc/MeOH/NH3 5:5:0.5).

reactant | 1-((S)-1-benzylpyrrolidin-2-yl)cyclopropanol | 3.43 mmol, 745 mg | C(C1=CC=CC=C1)N1[C@@H](CCC1)C1(CC1)O | C14H19NO
reactant | EtOAc MeOH NH3 | CCOC(=O)C.CO.N
product | (S)-1-pyrrolidin-2-ylcyclopropanol | N1[C@@H](CCC1)C1(CC1)O | C7H13NO
